US07183277B2
15 g (78.8 mmol) of 1-(4-aminophenyl)piperidin-2-one are heated to the boil together with 16.0 g (39.5 mmol) of 2,4-bis(4-methoxyphenyl)-1,3,2,4-dithiadiphosphetane 2,4-disulfide (Lawesson's reagent) in 100 ml of anhydrous toluene. After 45 minutes, the solvent is evaporated, and the residue is taken up in dichloromethane and 2 N HCl. The aqueous phase is extracted three times with dichloromethane and adjusted to a pH of 12 using conc. NaOH. Extraction with dichloromethane, drying over sodium sulfate and evaporation of the solvent give 1-(4-aminophenyl)piperidine-2-thione as a colourless solid, ESI 207.

reactant | 1-(4-aminophenyl)piperidin-2-one | 78.8 mmol, 15 g | NC1=CC=C(C=C1)N1C(CCCC1)=O | C11H14N2O
reactant | 2,4-bis(4-methoxyphenyl)-1,3,2,4-dithiadiphosphetane 2,4-disulfide | 39.5 mmol, 16.0 g | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4-aminophenyl)piperidine-2-thione | NC1=CC=C(C=C1)N1C(CCCC1)=S | C11H14N2S
